### PR TITLE
[Merged by Bors] - feat: port RingTheory.Polynomial.Hermite.Basic

### PR DESCRIPTION
**Pull request by EmilieUthaiwat**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Hermite/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+-/
+
+
+noncomputable section
+
+open Polynomial
+
+namespace Polynomial
+
+/-- the nth probabilist's Hermite polynomial -/
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hermite/Basic.lean:44]:
```suggestion
/-- the probabilists' Hermite polynomials. -/
```
We're not talking about the n'th probabilist, and there should be a full stop (I know this is what the mathlib3 doc said but may as well change it here). If you're happy with this suggested change then you could also change the module docstring. I think "the n'th probabilist" sounds very odd.

File: Mathlib/RingTheory/Polynomial/Hermite/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+
+
+section Coeff
+
+theorem coeff_hermite_succ_zero (n : ℕ) : coeff (hermite (n + 1)) 0 = -coeff (hermite n) 1 := by
+  simp [coeff_derivative]
+#align polynomial.coeff_hermite_succ_zero Polynomial.coeff_hermite_succ_zero
+
+theorem coeff_hermite_succ_succ (n k : ℕ) :
+  coeff (hermite (n + 1)) (k + 1) = coeff (hermite n) k - (k + 2) * coeff (hermite n) (k + 2) := by
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hermite/Basic.lean:86]:
```suggestion
theorem coeff_hermite_succ_succ (n k : ℕ) : coeff (hermite (n + 1)) (k + 1) = 
    coeff (hermite n) k - (k + 2) * coeff (hermite n) (k + 2) := by
```
Unfortunately the Lean 4 spacing convention requires 4 spaces on a multiline theorem, this takes us just over the 100 line limit. The other option is to move `by` but this would also go against a Lean 4 convention :-/

File: Mathlib/RingTheory/Polynomial/Hermite/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+
+-- Porting note: On line 116, the coercion from WithBot ℕ to ℕ was specified manually
+-- because it was not automatic
+@[simp]
+theorem degree_hermite (n : ℕ) : (hermite n).degree = n := by
+  rw [degree_eq_of_le_of_coeff_ne_zero]
+  simp_rw [degree_le_iff_coeff_zero, WithBot.coe_lt_coe]
+  · rintro m hnm
+    exact coeff_hermite_of_lt ((@WithBot.coe_lt_coe _ n m _).1 hnm)
+  · simp [coeff_hermite_self n]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hermite/Basic.lean:117]:
```suggestion
@[simp]
theorem degree_hermite (n : ℕ) : (hermite n).degree = n := by
  rw [degree_eq_of_le_of_coeff_ne_zero]
  simp_rw [degree_le_iff_coeff_zero]
   -- porting note: mathlib3 also had `simp_rw [WithBot.coe_lt_coe]` but it's not firing
   -- so we add it manually later
  · rintro m hnm
    exact coeff_hermite_of_lt (WithBot.coe_lt_coe.1 hnm)
  · simp [coeff_hermite_self n]
```
The real issue is that `simp_rw [WithBot.coe_lt_coe]` does nothing in mathlib4, for some reason; I've rewritten to give a more explicit explanation of the problem.

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot! I've left some suggestions. Please choose how to deal with them, resolve the conversations and change the tag back to `awaiting-review`.

**Review by eric-wieser — CHANGES_REQUESTED** [review]
The port dashboard says that you should ping @lukemantle before porting this file, as they are maybe still working on this in mathlib3. Did you do so?

**Comment by eric-wieser** [comment]
(I now see that due to an error in the dashboard page this message was unfortunately not visible)

**Comment by EmilieUthaiwat** [comment]
Yes, there is no comment on the port status page I see so I did not know I had to ping @lukemantle. I apologize for this.

**Comment by eric-wieser** [comment]
No worries, this is certainly not your fault. The mistake was caused by a file rename in mathlib3 without updating the corresponding name on the dashboard

**Comment by jakelev** [comment]
Hey, thanks for porting this! @lukemantle was my student and I can say that he's not working actively on the project any more; I have taken over with merging his PRs into mathlib3. That said, there's still one last PR to do (the explicit formula for the coefficient of a Hermite polynomial) which is currently waiting on #18995. Can this PR perhaps wait til that #18995 and the followup PR are done?

I could also put the new code into a new file when I PR it, which would mean it wouldn't require further edits to the work you've done here.

**Comment by kbuzzard** [comment]
Oh thanks for spotting this Eric! When I was reviewing the PR I only compared the diff with the output of mathlib3port so I also missed this message.

**Comment by eric-wieser** [comment]
@EmilieUthaiwat, to confirm your work is not wasted. We can leave this PR open, and git will be able to merge in any subsequent changes.

I can take care of this when @jakelev's work is done.

**Comment by EmilieUthaiwat** [comment]
@jakelev I am of course fine with waiting until #18994 and the followup PR are done before switching back to the `awaiting-review` tag.

Personally, I do not mind doing further edits to this PR if it makes more sense to add the new code to this file. Should it not make much difference where the new code is, then I also think it would be better to create a separate file.

**Comment by EmilieUthaiwat** [comment]
@eric-wieser Thank you!

**Comment by jakelev** [comment]
@EmilieUthaiwat @eric-wieser The last PR is ready [#19044](https://github.com/leanprover-community/mathlib/pull/19044).

**Comment by EmilieUthaiwat** [comment]
The PR [https://github.com/leanprover-community/mathlib/pull/19044](url) has been merged into mathlib3. Could someone please tell me what I should do to port the merged changes?

**Comment by eric-wieser** [comment]
I just rebased

**Comment by EmilieUthaiwat** [comment]
Thank you for having rebased! I finished fixing the file.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
